US07799805B2
Methanesulfonic acid 2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl ester
To a sol. of 2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethanol (2.00 g, 6.65 mmol) in CH2Cl2 (66 mL) at 0° C. were added dropwise Et3N (1.02 mL, 7.31 mmol) and methanesulfonyl chloride (0.57 mL, 7.31 mmol). The reaction was stirred at 0° C. for 1 h, and was diluted with CH2Cl2 (40 mL). The resulting mixture was washed with aq. sat. NH4Cl (2×). The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure to yield the crude title compound (2.55 g, quantitative yield) that was used further without purification. LC-MS: tR=1.13 min; ES+: 379.29.

reactant | 2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethanol | 6.65 mmol, 2.00 g | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1Cl)CCO)(C)C | C15H25ClO2Si
reactant | Et3N | 7.31 mmol, 1.02 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 7.31 mmol, 0.57 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 66 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl ester | 2.55 g, quantitative yield | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1Cl)CCOS(=O)(=O)C)(C)C | C16H27ClO4SSi
